US08461157B2
Step 45a: 2-(3-Methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (Compound 0602-130)
The title compound, 0602-130 was prepared (800 mg, 68%) as an oil from 1-bromo-methoxybenzene (930 mg, 5.0 mmol), bis(pinacolato)diboron (2.54 g, 10 mmol), potassium acetate (1.47 g, 15 mmol), and PdCl2(dppf)2 (204 mg, 0.25 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 235 [M+1]+. 1H NMR (400 MHz, DMSO-d6) δ 1.34 (s, 12H), 3.83 (s, 3H), 7.0 (d, J=6.4 Hz, 2H), 7.29 (m, 2H), 7.41 (d, J=5.6 Hz, 1H).

reactant | 1-bromo-methoxybenzene | 5.0 mmol, 930 mg | BrCOC1=CC=CC=C1 | C7H7BrO
reactant | bis(pinacolato)diboron | 10 mmol, 2.54 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15 mmol, 1.47 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | 0.25 mmol, 204 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-Methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | COC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C13H19BO3
